US07592453B2
2-Methyl-N-((1R,2S)-2-{[(3aR,4S,9bR)-4-propyl-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexyl)-1H-benzimidazole-5-carboxamide
To a suspension of (1R,2S)-2-{[(3aR,4R,9bR)-4-(propyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexaneamine hydrochloride (203 mg, 0.490 mmol) in DMF (4 ml) were added 2-methyl-1H-benzimidazole-5-carboxylic acid (86.2 mg, 0.490 mmol), triethylamine (0.206 ml, 1.47 mmol) and DEPC (0.0812 ml, 0.490 mmol) under ice-cooling, and the mixture was stirred at room temperature for 15 hrs. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous MgSO4, and concentrated under reduced pressure. The obtained residue was subjected to column chromatography using silica gel and eluted with ethyl acetate-methanol (1:0-9:1) to give the title compound (115 mg, 47%) as an amorphous form.

reactant | (1R,2S)-2-{[(3aR,4R,9bR)-4-(propyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexaneamine hydrochloride | 0.490 mmol, 203 mg | Cl.C(CC)[C@H]1NC=2C=CC=CC2[C@H]2[C@@H]1CCN2C(=O)[C@@H]2[C@@H](CCCC2)N
reactant | 2-methyl-1H-benzimidazole-5-carboxylic acid | 0.490 mmol, 86.2 mg | CC1=NC2=C(N1)C=CC(=C2)C(=O)O | C9H8N2O2
reactant | triethylamine | 1.47 mmol, 0.206 ml | C(C)N(CC)CC | C6H15N
reactant | DEPC | 0.490 mmol, 0.0812 ml | CCOC(=O)OC(=O)OCC | C6H10O5
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 2-Methyl-N-((1R,2S)-2-{[(3aR,4S,9bR)-4-propyl-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexyl)-1H-benzimidazole-5-carboxamide | 115 mg, 47% | CC1=NC2=C(N1)C=CC(=C2)C(=O)N[C@H]2[C@H](CCCC2)C(=O)N2CC[C@@H]1[C@@H](NC=3C=CC=CC3[C@@H]12)CCC | C30H37N5O2
